US04292321
A mixture of 100 g. (0.80 moles) of 3-isoquinuclidone in methylene chloride is added to a mixture of 190 g. (1.00 moles) of triethyloxonium tetrafluoroborate in methylene chloride. The preparation of 3-isoquinuclidone is described at Organic Synthesis Volume 5, John Wiley and Sons, New York (1973), pages 670-672. The reaction is then stirred for about 16 hours. 276 g. of potassium carbonate is added. 45 ml. of water is then added dropwise over about a 15 minute interval. The reaction mixture is then filtered, and the filtrate is concentrated. The residue is then twice distilled to give 67 g. of 2-aza-3-ethoxy-bicyclo[2,2,2]oct-2-en, bp. 87°-88° C. at 19 mm. A mixture of 3.65 g. (0.0161 moles) of N-[3-(N,N-diphenylamino)propyl]-amine hydrochloride, and 4.94 g. (0.0322 moles) of 2-aza-3-ethoxybicyclo[2,2,2]oct-2-en in 60 ml. of ethanol is heated for about 22 hours on a steambath, allowing solvent to boil away and shielding the reaction mixture from moisture. For about the last six hours, a vacuum is applied to the reaction mixture. The residual reaction product is dissolved in water and washed with ether. The aqueous layer is made basic with caustic. The resulting white crystals are filtered and twice recrystallized from carbon tetrachloride to give 2.8 g of N'-2-azabicyclo[2,2,2]-oct-2-en-3-yl-N,N-diphenyl-1,3-propanediamine, mp. 148.0°-149.5° C.

reactant | 3-isoquinuclidone | 0.80 moles | C1CC2CCC1C(=O)N2 | C7H11NO
reactant | triethyloxonium tetrafluoroborate | 1.00 moles | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 2-aza-3-ethoxy-bicyclo[2,2,2]oct-2-en | C(N)OC1=CC2CCC1CC2 | C9H15NO
reactant | N-[3-(N,N-diphenylamino)propyl]-amine hydrochloride | 0.0161 moles | Cl.C1(=CC=CC=C1)N(C1=CC=CC=C1)CCCN
reactant | 2-aza-3-ethoxybicyclo[2,2,2]oct-2-en | 0.0322 moles | C(N)OC1=CC2CCC1CC2 | C9H15NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | N'-2-azabicyclo[2,2,2]-oct-2-en-3-yl-N,N-diphenyl-1,3-propanediamine | 2.8 g | C12N=C(C(CC1)CC2)NCCCN(C2=CC=CC=C2)C2=CC=CC=C2 | C22H27N3
